US05308854
Step D: Preparation of 3-(2-phthalimidoethyl)-5-ethyl-6-methylpyridin-2(1H)-one
2-methoxy-3-(2-phthalimidoethyl)-5-ethyl-6-methyl pyridine is heated at 150° C. for 5-10 minutes in the presence of excess pyridine hydrochloride to give the above titled product.

reactant | 2-methoxy-3-(2-phthalimidoethyl)-5-ethyl-6-methyl pyridine | COC1=NC(=C(C=C1CCN1C(C=2C(C1=O)=CC=CC2)=O)CC)C | C19H20N2O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 3-(2-phthalimidoethyl)-5-ethyl-6-methylpyridin-2(1H)-one | C1(C=2C(C(N1CCC=1C(NC(=C(C1)CC)C)=O)=O)=CC=CC2)=O | C18H18N2O3
